US06110936
2,3-dihydro-4-trifluoromethylsulfonyloxy-(6H)-thiopyran
To a stirred solution of tetrahydrothiopyran4-one (5.8 g, 50 mmol) in tetrahydrofuran (50 ml) at -70° C. under argon was added LDA (1.92M in THF) (26 ml, 50 mmol). The solution was stirred for 20 minutes, then a solution of N-phenyl-bis(trifluoromethane-sulfonimide) (17.85 g, 50 mmol) in THF (30 ml) was slowly added. The solution was stirred overnight with warming to ambient temperature. The solution was evaporated to dryness and purified by alumina MPLC (using a mixture of 3% Ethyl acetate/hexane as eluant) to afford the title product. Yield=8.5 g (69%).

reactant | tetrahydrothiopyran4-one | 50 mmol, 5.8 g | S1CCC(CC1)=O | C5H8OS
reactant | LDA | 50 mmol, 1.92M, 26 ml | [Li+].CC(C)[N-]C(C)C
reactant | N-phenyl-bis(trifluoromethane-sulfonimide) | 50 mmol, 17.85 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 2,3-dihydro-4-trifluoromethylsulfonyloxy-(6H)-thiopyran | FC(S(=O)(=O)OC=1CCSCC1)(F)F | C6H7F3O3S2
